US04250174
A suspension of 2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine (0.500 gm.) in 10 ml. of trifluoroacetic anhydride is heated at reflux for 2 hours, the reaction mixture is concentrated to dryness and the residue is triturated with aqueous sodium bicarbonate. The product is collected by filtration, washed with water and dried in vacuo. The crude material is purified by recrystallization from ethyl ether to yield 2(Methoxycarbonylamino)-3-trifluoroacetyl-6-(phenylthio) imidazo [1,2-a] pyridine m.p. 171°-173° C.

reactant | 2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine | 0.500 gm | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1 | C15H13N3O2S
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2(Methoxycarbonylamino)-3-trifluoroacetyl-6-(phenylthio) imidazo [1,2-a] pyridine | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1C(C(F)(F)F)=O | C17H12F3N3O3S
